US04622403
6-Oxido-1-oxo-2,3,11,12-tetrahydro-1H-benzo[b]indeno[4,5-f]thiepin-8-carboxylic acid
Substituting an equivalent amount of methyl 1-oxo-2,3,11,12-tetrahydro-1H-benzo[b]indeno[4,5-f]-thiepin-8-carboxylate in Example 38, Step A, in place of methyl 1-oxo-2,3,9,10-tetrahydro-1H-benzo[b]-indeno[5,4-f]thiepin-6-carboxylate and taking the product through Step B of this example provided the title compound.

reactant | methyl 1-oxo-2,3,11,12-tetrahydro-1H-benzo[b]indeno[4,5-f]-thiepin-8-carboxylate | O=C1CCC=2C=CC3=C(CCC4=C(S3)C=C(C=C4)C(=O)OC)C12 | C19H16O3S
reactant | methyl 1-oxo-2,3,9,10-tetrahydro-1H-benzo[b]-indeno[5,4-f]thiepin-6-carboxylate | O=C1CCC=2C=CC=3C(=CC=4C(SC3C12)=CCCC4)C(=O)OC | C19H16O3S
product | 6-Oxido-1-oxo-2,3,11,12-tetrahydro-1H-benzo[b]indeno[4,5-f]thiepin-8-carboxylic acid | O=S1C2=C(CCC3=C1C=CC=1CCC(C13)=O)C=CC(=C2)C(=O)O | C18H14O4S
